US06281231B1
0.18 g of 2,6-dichloro-4-pyridinemethanol were dissolved into 5 ml of tetrahydrofuran (hereinafter referred to as “THF”), the solution was cooled by ice, and thereafter 0.04 g of sodium hydride (oil base, 60%) were added. To this, a solution of 0.15 g of methyl iodide dissolved in 2 ml of THF was added dropwise, and stirring was conducted for 2 hours at room temperature. Ethyl acetate was added to the reacted solution, and after the organic phase was washed by water, the organic phase was dried by adding sodium sulfate. The solvent was removed by evaporation, and the residue was purified by silica gel column chromatography to obtain 0.06 g of 2,6-dichloro-4-methoxymethylpyridine (Compound No. 1).

reactant | 2,6-dichloro-4-pyridinemethanol | 0.18 g | ClC1=NC(=CC(=C1)CO)Cl | C6H5Cl2NO
reactant | sodium hydride | 0.04 g | [H-].[Na+]
reactant | methyl iodide | 0.15 g | CI | CH3I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,6-dichloro-4-methoxymethylpyridine | 0.06 g | ClC1=NC(=CC(=C1)COC)Cl | C7H7Cl2NO
